US07612201B2
Phenyltrimethylammonium tribromide (102 mg, 0.272 mmol) was added to a solution of N-(4-acetyl-3-benzyloxy-phenyl)-acetamide (35 mg, 0.124 mmol) in THF (3.5 mL), and stirred at room temperature for 2 hours. The mixture was partitioned between water (25 mL) and EtOAc (25 mL), the layers separated and the organic layer dried (MgSO4). The solvents were removed in vacuo to give crude N-[3-benzyloxy-4-(2,2-dibromo-acetyl)-phenyl]-acetamide (54 mg, 100%) as a pale brown solid; δH (CDCl3) 7.92 (1H, br s), 7.85 (1H, d, J=8.5 Hz), 7.55 (1H, br s), 7.50-7.35 (5H, m), 7.09 (1H, s), 6.78 (1H, dd, J=8.5, 1.9 Hz), 5.20 (2H, s), 2.21 (3H, s); LCMS retention time 2.65 min, M+H+ 440.1/442.1/444.1. The mixture was used crude in the next step.

reactant | Phenyltrimethylammonium tribromide | 0.272 mmol, 102 mg | [Br-].[Br-].[Br-].C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C
reactant | N-(4-acetyl-3-benzyloxy-phenyl)-acetamide | 0.124 mmol, 35 mg | C(C)(=O)C1=C(C=C(C=C1)NC(C)=O)OCC1=CC=CC=C1 | C17H17NO3
solvent | THF | 3.5 mL | C1CCOC1 | C4H8O
product | N-[3-benzyloxy-4-(2,2-dibromo-acetyl)-phenyl]-acetamide | 54 mg, 100% | C(C1=CC=CC=C1)OC=1C=C(C=CC1C(C(Br)Br)=O)NC(C)=O | C17H15Br2NO3
